US04427672
18.5 g (0.1 mole) of 3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-butan-2-one were dissolved in 150 ml of glacial acetic acid, and, after adding 8.2 g (0.1 mole) of sodium acetate, 16 g (0.1 mole) of bromine were added dropwise at 45° C., until the mixture was completely decolorized. The mixture was then poured into ice-water and extracted with chloroform. The combined chloroform extracts were washed with sodium bicarbonate solution, dried over magnesium sulphate and concentrated. The oily 1-bromo-3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-butan-2-one which remained was dissolved in 50 ml of acetonitrile, and 11.3 g (0.1 mole) of 6-fluoro-2-hydroxy-pyridine and 10.5 g (0.1 mole) of triethylamine, both dissolved in 120 ml of acetonitrile, were added, while stirring. The mixture was stirred under reflux for 1 hour. It was then concentrated by distilling off the solvent in vacuo, and the residue was stirred with water. The crystalline precipitate formed was filtered off and recrystallized from cyclohexane. 20 g (68% of theory) of 3,3-dimethyl-4-fluoro-1-(6-fluoro-pyridin-2-yl-oxy)-1-(1,2,4-triazol-1-yl)-butan-2-one of melting point 116° C. were obtained.

reactant | 3,3-dimethyl-4-fluoro-1-(1,2,4-triazol-1-yl)-butan-2-one | 0.1 mole, 18.5 g | CC(C(CN1N=CN=C1)=O)(CF)C | C8H12FN3O
reactant | sodium acetate | 0.1 mole, 8.2 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.1 mole, 16 g | BrBr | Br2
reactant | 6-fluoro-2-hydroxy-pyridine | 0.1 mole, 11.3 g | FC1=CC=CC(=N1)O | C5H4FNO
reactant | triethylamine | 0.1 mole, 10.5 g | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 3,3-dimethyl-4-fluoro-1-(6-fluoro-pyridin-2-yl-oxy)-1-(1,2,4-triazol-1-yl)-butan-2-one | 20 g, 68% | CC(C(C(N1N=CN=C1)OC1=NC(=CC=C1)F)=O)(CF)C | C13H14F2N4O2
